US08258144B2
A mixture of tert-butyl (1-(2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)methylcarbamate (418 mg, 0.647 mmol), Pd2(dba)3 (60 mg, 0.065 mmol), dppf (72 mg, 0.130 mmol) and Zn(CN)2 (91 mg, 0.778 mmol) in DMF (5 mL) was stirred at 70° C. for 20 h. DMF was removed in vacuo. The residue was loaded to a flash column, eluted with a gradient of 10-30% EtOAc in hexane to give tert-butyl (1-(2-chloro-5-cyano-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)methylcarbamate (180 mg).

reactant | tert-butyl (1-(2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 0.647 mmol, 418 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)N2CCC(CC2)CNC(OC(C)(C)C)=O | C24H29ClIN5O4S
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.065 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.130 mmol, 72 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn(CN)2 | 0.778 mmol, 91 mg | [C-]#N.[C-]#N.[Zn+2]
product | tert-butyl (1-(2-chloro-5-cyano-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 180 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)N2CCC(CC2)CNC(OC(C)(C)C)=O | C25H29ClN6O4S
